US04970219
5-[(3-nitro-4-pyridinyl)oxy]-1H-indole
To a solution of 5-hydroxyindole (7.45 g) in 100 ml of DMF was added K2CO3 (10.4 g). This mixture was stirred for 10 minutes at room temperature and then a solution of 4-chloro-3-nitropyridine (11.89 g) in 50 ml DMF was added dropwise. The reaction was allowed to proceed for 24 hours at room temperature. The mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with water and saturated NaCl solution and dried over MgSO4. After filtration, the solvent was evaporated to yield an oil (15.4 g). This material was eluted with 5% ethyl acetate/DCM on a silica gel column via HPLC. The desired fractions were concentrated to yield a solid, 1.35 g, m.p. 182°-184° C.

reactant | 5-hydroxyindole | 7.45 g | OC=1C=C2C=CNC2=CC1 | C8H7NO
reactant | K2CO3 | 10.4 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-chloro-3-nitropyridine | 11.89 g | ClC1=C(C=NC=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | water | O | H2O
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 5-[(3-nitro-4-pyridinyl)oxy]-1H-indole | 15.4 g | [N+](=O)([O-])C=1C=NC=CC1OC=1C=C2C=CNC2=CC1 | C13H9N3O3
